US04985560
4-Methyl-N-[4'-methyl(1-piperazinyl)propyl]pyridazino[4,5-b]indolizin-1-amine
Following the procedure of Example 1, reaction of one equivalent of 1-chloro-4-methylpyridazino[4,5-b]indolizine and 10 equivalents of 4-methyl-1-(3-aminopropyl)piperazine at 150° C. gave the title compound as the free base (yellow solid, 16% of theory) after purification by HPLC and trituration with i-propylether, mp 60° C. (foams). The free base was converted to the trihydrochloride salt mp. 280° C., 275° C. shrink (hydroscopic).

reactant | 1-chloro-4-methylpyridazino[4,5-b]indolizine | one equivalent | ClC1=NN=C(C2=C1C=C1C=CC=CN21)C | C11H8ClN3
reactant | 4-methyl-1-(3-aminopropyl)piperazine | 10 equivalents | CN1CCN(CC1)CCCN | C8H19N3
product | 4-Methyl-N-[4'-methyl(1-piperazinyl)propyl]pyridazino[4,5-b]indolizin-1-amine | CC=1N=NC(=C2C=C3C=CC=CN3C21)NCCCN2CCN(CC2)C | C19H26N6
